US06235731B1
To a solution of 0.50 g (1.39 mM) of N-(3-pyrrolidinyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride and 1.0 ml (7.17 mM) of triethylamine in ethanol (5 ml) was added 0.25 ml (1.64 mM) of 1-bromo-3-phenylpropane at room temperature, and the mixture was refluxed under nitrogen for 18 hours. To this reaction mixture was further added 0.2 ml (1.32 mM) of 1-bromo-3-phenylpropane, and the mixture was further refluxed for 3 hours. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with chloroform. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over MgSO4, and purified by column chromatography (methanol/ethyl acetate 20-30%) to provide N-[1-(3-phenylpropan-1-yl)pyrrolidin-3-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide.

reactant | N-(3-pyrrolidinyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.39 mM, 0.50 g | Cl.Cl.N1CC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 7.17 mM, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-phenylpropane | 1.64 mM, 0.25 ml | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | 1-bromo-3-phenylpropane | 1.32 mM, 0.2 ml | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[1-(3-phenylpropan-1-yl)pyrrolidin-3-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)CCCN1CC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C23H24N4OS
